US08729079B2
d: Ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-2-chloro-6-methylpyrimidine-5-carboxylate
Ethyl 2,4-dichloro-6-methylpyrimidine-5-carboxylate (0.5 g, 2.1 mmol) and tert-butyl 4-(4-aminobenzyl)piperazine-1-carboxylate (0.6 g, 2.06 mmol) were dissolved in NMP and stirred at 0° C. for 2 hour. The reaction mixture was poured onto water and extracted with EtOAc. The organic layer was washed with water, dried over Na2SO4 and evaporated under vacuum to get the desired compound (0.62 g). 1H NMR (400 MHz, CDCl3): δ 10.58 (s, 1H), 7.58 (d, J=6.4 Hz, 2H), 7.31 (d, J=6.4 Hz, 2H), 4.45 (q, J=6.8 Hz, 2H), 3.56 (s, 2H), 3.41 (m, 4H), 2.69 (s, 3H), 2.47 (m, 4H), 1.45 (s, 9H), 1.43 (t, J=6.8 Hz, 3H); MS m/z 490.0 (M+1).

reactant | Ethyl 2,4-dichloro-6-methylpyrimidine-5-carboxylate | 2.1 mmol, 0.5 g | ClC1=NC(=C(C(=N1)Cl)C(=O)OCC)C | C8H8Cl2N2O2
reactant | tert-butyl 4-(4-aminobenzyl)piperazine-1-carboxylate | 2.06 mmol, 0.6 g | NC1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H25N3O2
solvent | NMP | CN1CCCC1=O | C5H9NO
product | Ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-2-chloro-6-methylpyrimidine-5-carboxylate | 0.62 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)NC1=NC(=NC(=C1C(=O)OCC)C)Cl | C24H32ClN5O4
